US08003785B2
A mixture of 2.00 g (0.0066 mole) of 2-chloro-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-1), 1.655 g (0.0099 mole) of 4-amino-3-methoxybenzoic acid and 200 mL of ethanol-water-hydrochloric acid (20:80:1) was refluxed for 18 hours, then concentrated under reduced pressure. The solid was washed with water and then purified by silica gel chromatography, eluting with dichloromethane-methanol-ammonium hydroxide (92:8:0.3) to give 1.500 g of 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-1).

reactant | 2-chloro-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0066 mole, 2.00 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCC2)N1 | C12H13ClF2N4O
reactant | 4-amino-3-methoxybenzoic acid | 0.0099 mole, 1.655 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
solvent | ethanol water hydrochloric acid | 200 mL | C(C)O.O.Cl
product | 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 1.500 g | C1(CCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C20H21F2N5O4
